US08476294B2
Stage 166.1.2 5-Bromo-3-ethoxymethyl-pyridin-2-ylamine
A solution of (2-amino-5-bromo-pyridin-3-yl)-methanol hydrobromide (Apollo, Cheshire, UK, 3.52 mmol) in DMF (15 ml) cooled with an ice-bath was treated with 55% NaH in oil (7.4 mmol) and the RM was stirred for 5 min at 0° C. and 30 min at rt, then was added iodoethane (3.87 mmol) and the RM was stirred for 1 h 15 min at rt. The RM was quenched with water and extracted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, with brine (2×), dried over Na2SO4, filtered and evaporated. The residue was taken in DMF and purified by preparative HPLC. The fractions containing product were basified with NaHCO3, concentrated and extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, evaporated and dried under vacuum to give the title compound as a light yellow oil. (HPLC: tR 2.07 min (Method A); M+H=231, 233 MS-ES)

reactant | (2-amino-5-bromo-pyridin-3-yl)-methanol hydrobromide | 3.52 mmol | Br.NC1=NC=C(C=C1CO)Br
reactant | NaH | [H-].[Na+]
reactant | iodoethane | 3.87 mmol | ICC | C2H5I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-3-ethoxymethyl-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)COCC | C8H11BrN2O
